US07247734B2
1-(2,4-Dihydroxy-phenyl)-2-phenyl-ethanone (0.5 g, 3.2 mmol) was refluxed in anhydrous DMF with acetic anhydride (1.5 ml), and anhydrous potassium carbonate (1.4 g 10.1 mmol) for 3 hrs. The solution was then poured into water and the precipitate filtered to give 7-hydroxy-2-methyl-3-phenyl-chromen-4-one as white solid (0.62 g, 66%); Rf 0.75 cf SM 0.9 ethyl acetate/hexane (75/25).

reactant | 1-(2,4-Dihydroxy-phenyl)-2-phenyl-ethanone | 3.2 mmol, 0.5 g | OC1=C(C=CC(=C1)O)C(CC1=CC=CC=C1)=O | C14H12O3
reactant | acetic anhydride | 1.5 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | potassium carbonate | 10.1 mmol, 1.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
product | 7-hydroxy-2-methyl-3-phenyl-chromen-4-one | 0.62 g, 66% | OC1=CC=C2C(C(=C(OC2=C1)C)C1=CC=CC=C1)=O | C16H12O3
